US08058299B2
Crude 4-(4-amino-2-cyano-phenyl)-piperazine-1-carboxylic acid tert-butyl ester from above was dissolved in methylene chloride (10 mL) and to the resulting solution was added 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (454 mg), triethylamine (247 μL) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCl, 337 mg). The reaction mixture was stirred at room temperature for 3 hr. Another portion of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.5 eq) was added. The reaction mixture was stirred at 50° C. for 3 hr and at room temperature for 3.5 days. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and evaporated. Purification by flash chromatography afforded 4-{2-cyano-4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (240 mg, 25% yield) as a yellow solid. LCMS calcd for C27H26F3N5O4 (m/e) 541, obsd 542 (M+H).

reactant | 4-(4-amino-2-cyano-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N)C#N | C16H22N4O2
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 454 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | triethylamine | 247 μL | C(C)N(CC)CC | C6H15N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 337 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.5 eq | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-{2-cyano-4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 240 mg, 25% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C#N | C27H26F3N5O4
